US07981903B2
To a solution of 1-methyl-4-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine (1.77 g, 6.67 mmol) in 15 mL of ethanol (with 1 mL DMF added to aid solubility) was added 5% platinum on carbon (200 mg) and subjected to a H2 balloon for 16 h. At this time the reaction mixture was filtered through celite and washed with methanol. Solvents were evaporated under reduced pressure to afford 4-(4-methylhexahydro-1H-1,4-diazepin-1-yl)-2-(methyloxy)aniline (1.46 g, 6.2 mmol, contains residual DMF). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.85 (ddd, J=11.55, 6.05, 5.87 Hz, 2 H) 2.24 (s, 3 H) 2.39-2.47 (m, 2 H) 2.54-2.60 (m, 2 H) 3.28-3.36 (m, 2 H) 3.36-3.42 (m, 2H) 3.73 (s, 3 H) 3.93 (s, 2 H) 6.07 (dd, J=8.43, 2.66 Hz, 1 H) 6.23 (d, J=2.57 Hz, 1 H) 6.49 (d, J=8.43 Hz, 1 H)

reactant | 1-methyl-4-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine | 6.67 mmol, 1.77 g | CN1CCN(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C13H19N3O3
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | platinum on carbon | 200 mg | [Pt] | Pt
product | 4-(4-methylhexahydro-1H-1,4-diazepin-1-yl)-2-(methyloxy)aniline | 6.2 mmol, 1.46 g | CN1CCN(CCC1)C1=CC(=C(N)C=C1)OC | C13H21N3O
